US04474953
Alternative Synthesis of 3-(1H-Tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidine-4-one
A mixture of 0.94 g (10.0 mmole) of 2-aminopyridine, 1.56 g (10.0 mmole) of ethyl tetrazol-5-ylacetate, 1.65 g (11.1 mmole) of triethyl orthoformate and 0.3 g (2.2 mmole) of aluminum chloride in 50 ml of 1,1,2,2-tetrachloroethane was heated at 120° C. under a nitrogen atmosphere for 3 days. The mixture was cooled, diluted to 200 ml with diethyl ether and filtered. The solid obtained was suspended in 100 ml of 1:1 methanol-water. The solid was then separated by filtration and washed with methanol to provide 1.39 g (65%) of off-white-colored solid 3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidine-4-one. The infrared spectrum of the product confirmed the structural assignment.

reactant | 2-aminopyridine | 10.0 mmole, 0.94 g | NC1=NC=CC=C1 | C5H6N2
reactant | ethyl tetrazol-5-ylacetate | 10.0 mmole, 1.56 g | N1N=NN=C1CC(=O)OCC | C5H8N4O2
reactant | triethyl orthoformate | 11.1 mmole, 1.65 g | C(OCC)(OCC)OCC | C7H16O3
reactant | aluminum chloride | 2.2 mmole, 0.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,1,2,2-tetrachloroethane | 50 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methanol water | 100 ml | CO.O
product | 3-(1H-Tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidine-4-one | 1.39 g, 65% | N1N=NN=C1C1=CN=C2N(C1=O)C=CC=C2 | C9H6N6O
